* source LAB1_PROJECT
R_R1         N14650 N14663  12 TC=0,0 
R_R2         N14663 N14676  3.55556 TC=0,0 
V_V1         N14875 0 4Vdc
V_V2         N14650 0 10Vdc
X_H1    N14663 N14875 N14676 0 SCHEMATIC1_H1 

.subckt SCHEMATIC1_H1 1 2 3 4  
H_H1         3 4 VH_H1 3
VH_H1         1 2 0V
.ends SCHEMATIC1_H1
